US04156079
B. N-[[3-Methoxy-2-[3-(4-morpholinyl)propoxy]phenyl]methylene]benzeneethanamine
3-Methoxy-2-[3-(4-morpholinyl)propoxy]benzaldehyde (42.5 g) and 18.5 g of phenethylamine are reacted in 150 ml of toluene following the procedure described in Example 1B, yielding 50.0 g of the title compound, boiling point 229°-234° C. at 0.2-0.3 mm of Hg.

reactant | 3-Methoxy-2-[3-(4-morpholinyl)propoxy]benzaldehyde | 42.5 g | COC=1C(=C(C=O)C=CC1)OCCCN1CCOCC1 | C15H21NO4
reactant | phenethylamine | 18.5 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-[[3-Methoxy-2-[3-(4-morpholinyl)propoxy]phenyl]methylene]benzeneethanamine | 50.0 g | COC=1C(=C(C=CC1)C=NCCC1=CC=CC=C1)OCCCN1CCOCC1 | C23H30N2O3
